Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ from ___ (moved to ___ ___ years ago) recently seen in 
clinic ___ with fever, arthralgias, lymphadenopathy and 
anorexia and found to have transaminitis and leukopenia. Pt was 
urged to present to ED once childcare for her daughter could be 
arranged. Of note, patient has had similar episodes of fever, 
arthralgias, right posterior cervical LAD with accompanying 
leukopenia several times as documented in the Atrius records 
(___), and she was seen by ID and 
underwent testing for malaria, HIV, CMV and shistosomiasis that 
was unrevealing. Quantiferon gold was positive, so pt started 
rifampin in ___ for latent TB. 

Patient notes 6 days of fevers yesterday up to 104,abdominal 
pain, anorexia, nausea, vomiting, left wrist pain, left knee 
pain, left ankle pain, right ankle pain, and right bicep pain 
that has been ongoing. She also notes an enlarged posterior 
lymph node on her neck that has been ongoing for ___ days. She 
denies cough, chest pain, or diarrhea. 

She has not been sexually active for ___ years. Denies history of 
STD's or sick contacts. Denies acetaminophen use, alcohol use, 
or supplement use.

Of note, last ___ when she first had these symptoms, she thought 
it was malaria. She was not tested then, but did have a parasite 
smear in ___. She notes that all 4 episodes have lasted 
about 2 weeks, and with everyone she has had fevers, 
odynophagia, post cervical LAD, arthralgias, and loss of 
appetite.

In ED, triage vital signs were: 98.3 76 106/69 16 100% RA. Pt 
was examined and labs sent. CXR had been performed at Atrius. 
Admit to medicine was requested for FUO.

ROS: ten point ROS otherwise negative. 
 

 
Past Medical History:
Latent TB
Malaria (in ___

 
Social History:
___
Family History:
denies FH of malignancy or rheumatoid disease
 
Physical Exam:
ADMISSION 
right posterior cervical LAD
CV: RRR no m/g/r
Pulm: CTAB no w/r/r
Abd: Soft, NT/ND, BS+
Extrem: Warm, no edema
GU: No foley
Neuro: A+OX3, speech fluent, pleasant, CN II-XII intact, symm
Skin: no rashes

DISCHARGE
VS - 97.6 (tmax 99.0) 97/63 65 18 100%RA
Gen - sitting up in bed, comfortable
Eyes - EOMI
ENT - OP clear, MMM
Lymph - small mobile non-tender posterior cervical lymph node; 
no other lymphadenopathy on exam
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION
___ 01:50PM BLOOD WBC-3.1* RBC-4.20 Hgb-11.4 Hct-34.5 
MCV-82 MCH-27.1 MCHC-33.0 RDW-12.3 RDWSD-37.2 Plt ___
___ 01:50PM BLOOD Neuts-54.4 ___ Monos-9.3 Eos-2.2 
Baso-0.6 Im ___ AbsNeut-1.70 AbsLymp-1.04* AbsMono-0.29 
AbsEos-0.07 AbsBaso-0.02
___ 01:50PM BLOOD Glucose-84 UreaN-7 Creat-0.8 Na-138 K-3.7 
Cl-100 HCO3-27 AnGap-15
___ 01:50PM BLOOD ALT-78* AST-84* AlkPhos-156* TotBili-0.7

DISCHARGE
___ 06:47AM BLOOD WBC-3.5* RBC-4.02 Hgb-10.7* Hct-32.6* 
MCV-81* MCH-26.6 MCHC-32.8 RDW-12.4 RDWSD-36.4 Plt ___
___ 06:47AM BLOOD Neuts-40.3 ___ Monos-7.2 Eos-4.0 
Baso-0.6 Im ___ AbsNeut-1.40* AbsLymp-1.65 AbsMono-0.25 
AbsEos-0.14 AbsBaso-0.02
___ 06:47AM BLOOD Glucose-95 UreaN-5* Creat-0.7 Na-138 
K-4.2 Cl-102 HCO3-26 AnGap-14
___ 06:47AM BLOOD ALT-45* AST-39 AlkPhos-154* TotBili-0.4

PENDING AT DISCHARGE
___ 06:47 PARVOVIRUS B19 ANTIBODIES (IGG & IGM)
___ 11:37 HERPES SIMPLEX VIRUS 1 AND 2 ANTIBODY IGM
___ 11:37 CHIKUNGUNYA ANTIBODIES W/ REFLEX(ES) TO TITER
___ 11:35 ANAPLASMA PHAGOCYTOPHILUM (HUMAN GRANULOCYTIC 
EHRLICHIA AGENT) IGG/IGM
___ 10:38 STRONGYLOIDES ANTIBODY,IGG
___ 16:00 ADENOVIRUS PCR
Microbiology
___ 07:50 IMMUNOLOGY HBV Viral Load
___ 07:49 Blood (Toxo) TOXOPLASMA IgG ANTIBODY; TOXOPLASMA 
IgM ANTIBODY
___ 07:49 IMMUNOLOGY HIV-1 Viral Load/Ultrasensitive
___ 22:16 BLOOD CULTURE Blood Culture, Routine
___ 17:00 URINE URINE CULTURE
___ 12:06 BLOOD CULTURE Blood Culture, Routine
___ 10:47 THROAT FOR STREP R/O Beta Strep Group A; 
RESPIRATORY CULTURE
___ 16:10 Blood (CMV AB) CMV IgG ANTIBODY; CMV IgM ANTIBODY

Imaging: 
Chest Xray ___ FINDINGS:Heart and mediastinum:  
Cardiomediastinal silhouette and pulmonary vasculature are 
normal. Pulmonary findings: The lungs are normally expanded.  No 
acute infiltrate, effusion, or pneumothorax.

Abdominal U/S ___
No sonographic findings to explain the reported symptoms. Note 
is made of incidental 1.6 cm x 1.5 cm x 1.4 cm hyperechoic 
lesion within the right hepatic lobe, not fully characterized 
but statistically most likely representing hepatic hemangioma. 
If clinically warranted, MRI of the abdomen could be performed 
for further characterization. 

___
EXAMINATION:  CT CHEST W/CONTRAST 
The partially visualized thyroid is normal. Supraclavicular, 
axillary, 
mediastinal and hilar lymph nodes are not enlarged. Aorta and 
pulmonary 
arteries are normal size. Cardiac configuration is normal and 
there is no appreciable coronary calcification.  The lungs are 
clear.  There is no pleural or pericardial effusion. 
For assessment of the abdomen, please the CT abdomen and pelvis 
from the same date. There are no bone findings of malignancy. 
IMPRESSION:  
1.  No acute intrathoracic abnormality. 
2.  For assessment of the abdomen please see the CT abdomen 
pelvis report from the same date. 
  
___
EXAMINATION:  CT abdomen and pelvis. 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  A 9 mm hypodensity in segment 7 (series 5, image 
37) is consistent with a 
hemangioma.  There is no evidence of intrahepatic or 
extrahepatic biliary 
dilatation.  The gallbladder is within normal limits. 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding. 
SPLEEN: The spleen is homogeneous in attenuation, however 
enlarged up to 14.2 cm. 
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  There is no evidence of focal renal lesions 
or hydronephrosis.  There is no perinephric abnormality. 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and 
enhancement throughout.  The colon and rectum are within normal 
limits.  The appendix is normal. 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis. 
REPRODUCTIVE ORGANS: The reproductive organs are unremarkable. 
LYMPH NODES: There is extensive, confluent, low-density, soft 
tissue which extends from the root of the mesentery inferior to 
the pancreas superiorly to the diaphragmatic ___ at the level 
of the celiac artery.  The mass encases the superior mesenteric 
artery, the left renal artery and vein and superior mesenteric 
vein without narrowing. 
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease is noted. Splenic varices are noted. 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
IMPRESSION: 
1. Confluent, low-density soft tissue, concerning for mesenteric 
and 
retroperitoneal lymphadenopathy.  Findings may represent an 
atypical infection such as mycobacterium or less likely 
lymphoma. 
2. Mild splenomegaly. 

Neck Ultrasound ___
1.4 x 0.5 cm oval-shaped lymph node with no definite fatty 
hilum. Although this is still within normal limits for size 
criteria, short-term follow-up in ___ weeks is recommended for 
reassessment given the lack of a well-defined fatty hilum.
 
Brief Hospital Course:
This is a ___ year old ___ female with past medical history 
of latent TB, reported prior episodes of fever/joint pain of 
unclear etiology, admitted ___ with subjective fever, 
joint pain leukocypenia and mild transaminitis of unclear 
etiology, concern for lymphadenopathy on imaging, clinically 
improving, thought to have most likely had a resolving viral 
process and able to be discharged home with close follow-up of 
the following transitional issues

# Subjective Fever / Joint Pain / Leukopenia / Lymphadenopathy - 
patient with reported history of prior fevers of unclear 
etiology despite workup in ___, latent TB non-compliant with 
rifampin, who presented with reported fevers at home; found to 
have leukopenia (WBC 3.0), reported joint pain (mainly in her 
wrists), concern for cervical lymphadenopathy, mild 
transaminitis (ALT 78 AST 84 AP 156 Tbili 0.7).  Patient seen by 
infectious disease service, who felt this was not likely to be 
TB or other acute process.  Multiple serologies sent out.  
Patient clinically improved without intervention: afebrile 
during 48 hours, LFTs improving, resolution of joint pain.  
Workup of concern for lymphadenopathy showed a single posterior 
cervical lymph node that was not pathologically enlarged.  CT 
torso did show potential possible "mesenteric and 
retroperitoneal lymphadenopathy";  per radiology, the 
differential of this finding was broad and included "atypical 
infection such as mycobacterium or less likely lymphoma"; spoke 
with ID service, who believed that there was likely no acute 
serious infectious process ongoing--more likely to be resolving 
viral.  spoke with radiology fellow Dr. ___ to discuss 
radiology read---differential is broad (infection, vasculitis, 
cancer), and could potentially be further worked up with PET 
scan.  Case discussed with patient (who reported that she would 
leave the hospital no matter what to help care for her daughter 
at home with Down's syndrome, but was willing to attend whatever 
follow-up we recommended), and PCP Dr ___ 
potential outpatient workup.  All agreed that discharge home was 
safe as long as close follow-up was scheduled. 

# GERD - continued home ranitidine

# Latent TB - patient reported not being compliant with her home 
rifampin (taking it ___ per week).  Per ID recommendations, 
rifampin was held until she could follow-up with outpatient ID 
(appointment made at discharge) to discuss plan for medication 
adherence. 

Transitional Issues
- Neck ultrasound showed "1.4 x 0.5 cm oval-shaped lymph node 
with no definite fatty hilum. Although this is still within 
normal limits for size criteria, short-term follow-up in ___ 
weeks is recommended for reassessment given the lack of a 
well-defined fatty hilum." Would consider ___ repeat ultrasound

- CT Abdomen/Pelvis showed "1. Confluent, low-density soft 
tissue, concerning for mesenteric and retroperitoneal 
lymphadenopathy.  Findings may represent an atypical infection 
such as mycobacterium or less likely lymphoma. 2. Mild 
splenomegaly." Per ID service, this was not concerning for an 
acute infectious process.  Could consider additional workup with 
outpatient PET scan, oncology referral. 

- Patient had been noncompliant with rifampin prior to 
admission; per ID consult, patient should hold her rifampin 
until her outpatient ID appointment

- Mild transaminitis noted during this admission.  At discharge 
ALT 45, AST 39, AP 154, Tbili 0.4.  Would consider repeating at 
follow-up visit to ensure resolution
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rifampin 600 mg PO Q24H 
2. Ranitidine 150 mg PO DAILY 
3. Ibuprofen 800 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. Ranitidine 150 mg PO DAILY 
2. Ibuprofen 800 mg PO Q8H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Latent Tuberculosis 
Fever / Leukopenia / Joint Pain
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with reported fevers and joint pain.  You underwent testing and 
were evaluated by infection specialists.  Your symptoms improved 
and no signs of serious infection were found.  

As we discussed, you underwent a CT scan that showed some 
enlarged lymph nodes in your abdomen.  It is not clear what is 
causing this.  We discussed this with your primary care doctor 
who agreed that it is very important for you to follow-up with 
her to discuss getting additional testing.  You will also need a 
repeat ultrasound of your neck in ___ weeks.

Given that you have not been taking it regularly, the infection 
doctors recommend not taking your rifampin until you see your 
infection doctor.  
 
Followup Instructions:
___